US04416884
A mixture of 1.8 g of 9-fluoro-8-chloro-5-methyl-6,7-dihydro-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid, 36 ml of N-methylpiperazine and 15 ml of hexamethylphosphoric triamide was heated at 150° to 160° C. for 4 hours. After completion of the reaction the solvent was removed by distillation under reduced pressure and the residue was washed with 10 ml of ethyl acetate. The crude crystals thus-obtained were mixed with 100 ml of water and adjusted to a pH of 4 with acetic acid. Insoluble materials were removed by filtration and the filtrate was treated with activated carbon followed by concentration under reduced pressure. The residue was mixed with 20 ml of water and the solution was adjusted to a pH of 9 with a 10% aqueous sodium hydroxide solution and extracted with 80 ml chloroform. After the extract was dried over anhydrous sodium sulfate and concentrated it was purified through a silica gel column chromatography (silica gel: Wako C-200, a trade name for a product of Wako Junyaku Co., Ltd.; eluent: chloroform-methanol (9:1 by volume)) to obtain 0.8 g of 8-(4-methyl-1-piperazinyl)-9-fluoro-5-methyl-6,7-dihydro-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid as white rhombic crystals having a melting point of 262° to 263° C.

reactant | 9-fluoro-8-chloro-5-methyl-6,7-dihydro-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid | 1.8 g | FC1=C(C=2CCC(N3C=C(C(C(C23)=C1)=O)C(=O)O)C)Cl | C14H11ClFNO3
reactant | N-methylpiperazine | 36 ml | CN1CCNCC1 | C5H12N2
reactant | hexamethylphosphoric triamide | 15 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
reactant | water | 100 ml | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 8-(4-methyl-1-piperazinyl)-9-fluoro-5-methyl-6,7-dihydro-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid | 0.8 g | CN1CCN(CC1)C1=C(C=C2C(C(=CN3C(CCC1=C23)C)C(=O)O)=O)F | C19H22FN3O3
